US08604034B2
4-Bromopyridine hydrochloride (1.1 g, 5.7 mmol) was treated with 5% Na2CO3 (aq, 35 mL) and the solution extracted with CH2Cl2 (3×15 mL). The extracts were combined, dried (Na2SO4), filtered and concentrated in vacuo to yield a oil. The oil was dried under high vacuum before the flask was flushed with nitrogen and then immediately dissolved in dry THF (15 mL). To this solution was added isopropylmagnesium chloride (2.6 M solution in ether, 2.2 mL, 5.7 mmol) dropwise under nitrogen. The resulting dark solution was stirred at room temperature for 1.5 h during which time a precipitate formed. Meanwhile, to a chilled (ice/acetone bath) suspension of tert-butyl{2-[methoxy(methyl)amino]-2-oxoethyl}carbamate (1.0 g, 4.6 mmol) in THF (10 mL) was added isopropylmagnesium chloride (2.6 M solution in ether, 1.8 mL, 4.7 mmol) dropwise. The resulting solution was stirred for 10 minutes before being added to the aryl Grignard initially generated. The mixture was stirred at room temperature overnight, diluted with water (25 mL) and brine (25 mL) and extracted with ethyl acetate (3×35 mL). The organic layers were dried (MgSO4), filtered and concentrated in vacuo to yield a yellow residue. The material was purified by flash chromatography (Biotage SP4, 40 g cartridge, 1 gradient CV hexanes, 0-100% EtOAc in hexanes 10 CV, hold for 5 CV) to give tert-butyl[2-oxo-2-(pyridin-4-yl)ethyl]carbamate as a yellow oil (785 mg yield 52%). 1H-NMR (400 MHz, CDCl3): δ 1.47 (s, 9H), 4.65 (d, 2H, J 4.6 Hz), 7.71-7.74 (m, 2H), 8.83-8.86 (m, 2H).

reactant | 4-Bromopyridine hydrochloride | 5.7 mmol, 1.1 g | Cl.BrC1=CC=NC=C1
reactant | Na2CO3 | 35 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | isopropylmagnesium chloride | 5.7 mmol, 2.6 M, 2.2 mL | C(C)(C)[Mg]Cl
reactant | tert-butyl{2-[methoxy(methyl)amino]-2-oxoethyl}carbamate | 4.6 mmol, 1.0 g | C(C)(C)(C)OC(NCC(=O)N(C)OC)=O | C9H18N2O4
reactant | isopropylmagnesium chloride | 4.7 mmol, 2.6 M, 1.8 mL | C(C)(C)[Mg]Cl
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 25 mL | O | H2O
solvent | brine | 25 mL | [Cl-].[Na+].O
product | tert-butyl[2-oxo-2-(pyridin-4-yl)ethyl]carbamate | yield 52% | C(C)(C)(C)OC(NCC(C1=CC=NC=C1)=O)=O | C12H16N2O3
